US09227978B2
Piperazine-2-carboxamide dihydrochloride
A mixture of di-tert-butyl 2-carbamoylpiperazine-1,4-dicarboxylate (7.5 g, 22.79 mmol), in HCl/MeOH (75 mL, 2.86; N) was stirred at room temperature for 16 h. The mixture was concentrated in vacuo to yield the product (4.58 g, 100% yield) as a yellow solid.

reactant | di-tert-butyl 2-carbamoylpiperazine-1,4-dicarboxylate | 22.79 mmol, 7.5 g | C(N)(=O)C1N(CCN(C1)C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C15H27N3O5
reactant | HCl MeOH | 75 mL | Cl.CO
product | Piperazine-2-carboxamide dihydrochloride | 4.58 g, 100% yield | Cl.Cl.N1C(CNCC1)C(=O)N | InChI=1S/C5H11N3O.2ClH/c6-5(9)4-3-7-1-2-8-4;;/h4,7-8H,1-3H2,(H2,6,9);2*1H
